US08242104B2
9-Bromo-2-[2-(2-chloro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene was prepared similarly to 8-bromo-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene from 5-chloro-1-(2-chloro-phenyl)-1H-[1,2,4]triazole (2.25 g, 10.5 mmol) and 9-bromo-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene (1.9 g, 7 mmol), the crude product was subjected to flash chromatography (SiO2, gradient 0 to 60% DCM (+10% ethyl acetate) in cyclohexane) to give 9-Bromo-2-[2-(2-chloro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene (1.3 g, 33%). LCMS RT=4.82 M+H+=442/444

reactant | 8-bromo-2-[2-(2,4-difluoro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=C(C=C2)F)F)C=C1 | C19H12BrF2N5O
reactant | 5-chloro-1-(2-chloro-phenyl)-1H-[1,2,4]triazole | 10.5 mmol, 2.25 g | ClC1=NC=NN1C1=C(C=CC=C1)Cl | C8H5Cl2N3
reactant | 9-bromo-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 7 mmol, 1.9 g | BrC=1C=CC2=C(C3=NNC=C3CCO2)C1 | C11H9BrN2O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 9-Bromo-2-[2-(2-chloro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-2H-6-oxa-1,2-diaza-benzo[e]azulene | 1.3 g, 33% | BrC=1C=CC2=C(C3=NN(C=C3CCO2)C=2N(N=CN2)C2=C(C=CC=C2)Cl)C1 | C19H13BrClN5O
